US07125865B2
Step 5: Preparation of 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl methanesulfonate.
To a solution of 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butan-1-ol, from this Example step 4, in CH2Cl2 (25 mL) was added Et3N (0.42 mL, 2.99 mmol) and methanesulfonyl chloride (0.17 mL, 2.2 mmol) at 0° C. The mixture was stirred from 0° C. to room temperature for 2 hours. 0.5N HCl was added and the mixture extracted 3 times with CH2Cl2. Combined organic extracts were washed with water and brine then dried over Na2SO4. The solvent was evaporated in vacuo to give the title compound.

reactant | 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butan-1-ol | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)CCCCO | C15H18F3NO2
reactant | Et3N | 2.99 mmol, 0.42 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.2 mmol, 0.17 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 0.5N | Cl | ClH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl]butyl methanesulfonate | CS(=O)(=O)OCCCCC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C16H20F3NO4S
